US05449686
4-Cyano-4-(3-cyclopentyloxy-4-difluoromethoxyphenyl)cyclohexan-1-one
A mixture of 2-carbomethoxy-4-cyano-4-(3-cyclopentyloxy-4-difluoromethoxyphenyl)cyclohexan-1-one (0.98 g, 2.4 mmole), dimethyl sulfoxide (10 mL), water (0.62 mL) and sodium chloride (0.62 g) under an argon atmosphere was heated at 145° C. for 5 h. The reaction mixture was cooled to room temperature and concentrated. The residue was partitioned between ether and water, the organic layer washed with water, was dried (magnesium sulfate) and the solvent was removed in vacuo. The product was purified by flash chromatography, eluting with 20-30% ethyl acetate/hexanes. The isolated residue was dissolved in ethyl acetate,this was washed twice with dilute sodium hydroxide, once with water, once with brine and then was dried and evaporated to yield a solid (0.2 g, 23.6%): m.p. 76°-78° l C.

reactant | 2-carbomethoxy-4-cyano-4-(3-cyclopentyloxy-4-difluoromethoxyphenyl)cyclohexan-1-one | 2.4 mmole, 0.98 g | C(=O)(OC)C1C(CCC(C1)(C1=CC(=C(C=C1)OC(F)F)OC1CCCC1)C#N)=O | C21H23F2NO5
reactant | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
reactant | sodium chloride | 0.62 g | [Cl-].[Na+]
solvent | water | 0.62 mL | O | H2O
product | 4-Cyano-4-(3-cyclopentyloxy-4-difluoromethoxyphenyl)cyclohexan-1-one | 0.2 g, 23.6% | C(#N)C1(CCC(CC1)=O)C1=CC(=C(C=C1)OC(F)F)OC1CCCC1 | C19H21F2NO3
